US06756378B2
To a stirred solution of 4:1 mixture of methyl 4-formylmethyloxybenzoate and methyl 4-hydroxybenzoate (1.00 g) and cyclopropylamine (425 ml, 6.18 mmol) in MeOH—AcOH (10:1, 11 ml) was added NaBH3CN (681 mg, 10.3 mmol). After stirring overnight, the mixture was quenched by addition of sat. NaHCO3 (50 ml) and extracted with CHCl3 (2×200 ml). The combined extracts were dried over MgSO4 and evaporated. The residue was chromatographed on silica gel with CHCl3—MeOH (20:1) to give methyl 4-(2-cyclopropylaminoethoxy)benzoate (595 mg, 49%) as a colorless oil. 1H-NMR (CDCl3) δ0.37-0.49 (m, 4 H), 1.91 (m, 1 H), 2.18-2.23 (m, 1 H), 3.11 (t, J=5.2 Hz, 2 H), 3.88 (s, 3 H), 4.12 (t, J=5.2 Hz, 2 H), 6.92 (, J=8.88 Hz, 2 H), 7.98 (d, J=8.8 Hz, 2 H).

reactant | methyl 4-formylmethyloxybenzoate | C(=O)COC1=CC=C(C(=O)OC)C=C1 | C10H10O4
reactant | methyl 4-hydroxybenzoate | 1.00 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | cyclopropylamine | 6.18 mmol, 425 ml | C1(CC1)N | C3H7N
reactant | NaBH3CN | 10.3 mmol, 681 mg | [BH3-]C#N.[Na+]
solvent | MeOH AcOH | 11 ml | CO.CC(=O)O
product | methyl 4-(2-cyclopropylaminoethoxy)benzoate | 595 mg, 49% | C1(CC1)NCCOC1=CC=C(C(=O)OC)C=C1 | C13H17NO3
